US08217177B2
5-bromo-N,N-dimethylthiazol-2-amine:
To a microwave vial was added N-ethyl-N-isopropylpropan-2-amine (0.72 mL, 4.1 mmol), 2,5-dibromothiazole (1.00 g, 4.1 mmol) and dimethylamine (40% in water, 0.52 mL, 4.1 mmol) in ethanol (10 mL). The vial was sealed and stirred at 140° C. under microwave irradiation for one hour, then was concentrated and purified by MPLC (eluted with a gradient of 0-50% ethyl acetate in hexanes) to yield the product as a white, crystalline solid (0.25 g, 29%).

reactant | N-ethyl-N-isopropylpropan-2-amine | 4.1 mmol, 0.72 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,5-dibromothiazole | 4.1 mmol, 1.00 g | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | dimethylamine | 4.1 mmol, 0.52 mL | CNC | C2H7N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-bromo-N,N-dimethylthiazol-2-amine | 0.25 g, 29% | BrC1=CN=C(S1)N(C)C | C5H7BrN2S
